US05622947
0.14 g of ammonium chloride and 0.17 g of sodium azide were added to a solution of 0.7 g of 5-cyanomethyl-7-chloro-1-[2-methyl-4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine dissolved in 10 ml of dry dimethylformamide. The mixture was stirred at 100° C. for 2 hours. To the reaction mixture was added hydrochloric acid to control the pH of the mixture at about 2, followed by extraction with ethyl acetate. The organic layer was water-washed, then dried and subjected to vacuum distillation to remove the solvent. The residue was purified by silica gel column chromatography (elutant: dichloromethane/methanol =30/1) to obtain 0.52 g of 5-(1-methyl-1,2,3,4-tetrazol-5-yl)methyl-7-chloro-1-[2-methyl-4-(2-chlorobenzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine.

reactant | ammonium chloride | 0.14 g | [Cl-].[NH4+]
reactant | sodium azide | 0.17 g | [N-]=[N+]=[N-].[Na+]
reactant | 5-cyanomethyl-7-chloro-1-[2-methyl-4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine | 0.7 g | C(#N)CC1CCCN(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)C)=O | C27H23Cl2N3O2
reactant | hydrochloric acid | Cl | ClH
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-(1-methyl-1,2,3,4-tetrazol-5-yl)methyl-7-chloro-1-[2-methyl-4-(2-chlorobenzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine | 0.52 g | CN1N=NN=C1CC1CCCN(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)C)=O | C28H26Cl2N6O2
